US04487929
In a manner analogous to that described in Example 7(E), from 5.9 g of methyl 2-benzyl-2,3,5,8-tetrahydro-2-(2-methanesulfonyloxyethyl)-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate and 4.2 g of sodium iodide there were obtained 3.25 g (51%) of methyl 2-benzyl-2,3,5,8-tetrahydro-2-(2-iodoethyl)-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in the form of a white solid having a melting point of 90°-92° C. (from diethyl ether).

reactant | methyl 2-benzyl-2,3,5,8-tetrahydro-2-(2-methanesulfonyloxyethyl)-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 5.9 g | C(C1=CC=CC=C1)C1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCOS(=O)(=O)C | C19H22N2O7S
reactant | sodium iodide | 4.2 g | [I-].[Na+]
product | methyl 2-benzyl-2,3,5,8-tetrahydro-2-(2-iodoethyl)-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 3.25 g, 51% | C(C1=CC=CC=C1)C1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCI | C18H19IN2O4
